US04857656
Synthesis of benzyloxycarbonylalanylvaline
In 50 ml of chloroform was dissolved 4.14 g of benzyloxycarbonylalanine p-methylsulfoniophenyl ester p-toluenesulfonate, and 20 ml of an aqueous solution of 0.91 g of valine and 1.1 ml of triethylamine was dropwise added thereto under stirring at room temperature. The reaction mixture was stirred for 8 hours at room temperature and then separated. The chloroform layer was washed with water, dried, and concentrated under reduced pressure, and ether was added to the residue to afford white crystals.

reactant | benzyloxycarbonylalanine p-methylsulfoniophenyl ester p-toluenesulfonate | 4.14 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[SH+]C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O
reactant | valine | 0.91 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyloxycarbonylalanylvaline | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)O | C16H22N2O5
